Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
simvastatin / Crestor / Pravastatin / Nifedipine / amlodipine / 
Bactrim DS / lovastatin / Tetanus&Diphtheria Toxoid / 
Penicillins / meloxicam / duloxetine
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
Admission labs:
WBC 6.9, hgb 14.2. Cr of 1.4, bicarb of 16,
lactate 2.1 -> 1.5

CT abdomen/pelvis:
IMPRESSION:  
1.  Hyperemia and bowel wall thickening of the colon consistent 
with 
pancolitis without evidence of abscess formation. 
2.  Cholelithiasis without evidence of cholecystitis. 

admission EKG with A fib, V rate 82, delayed R wave progression, 
but otherwise non ischemic 

___ C diff negative 

___ BCx: pending, NGTD
___ UA non infectious, UCx c/w skin flora

___ stool culture: +PMNs, negative for campylobacter, no ova or 
parasites, negative for vibrio. Yersinia pending

___ TTE:
CONCLUSION:
The left atrial volume index is normal. No thrombus/mass is seen 
in the body of the left atrium (best excluded by TEE). The right 
atrium is mildly enlarged. There is no evidence for an atrial 
septal defect by 2D/color Doppler. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with a normal cavity size. There is normal regional 
and global left ventricular systolic function. Quantitative 3D 
volumetric left ventricular ejection fraction is 64 % (normal 
54-73%). Left ventricular cardiac index is normal (>2.5 
L/min/m2). There is no resting left ventricular outflow tract 
gradient. Normal right ventricular cavity size with normal free 
wall motion. Tricuspid
annular plane systolic excursion (TAPSE) is normal. The aortic 
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch is mildly dilated with a 
normal descending
aorta diameter. There is no evidence for an aortic arch 
coarctation. The aortic valve leaflets (3) are mildly thickened. 
There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is mild [1+] mitral 
regurgitation. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal. There is
physiologic tricuspid regurgitation. There is moderate pulmonary 
artery systolic hypertension. There is a trivial pericardial 
effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/ global biventricular systolic 
function. Moderate pulmonary artery systolic hypertension. Mild 
aortic arch dilation. Mild mitral regurgitation with normal 
valve morphology. Compared with the prior TTE ___, the 
estimated pulmonary artery systolic pressure is now
increased.

Discharge labs: 

___ 06:35AM BLOOD WBC-5.7 RBC-4.66 Hgb-13.7 Hct-41.7 MCV-90 
MCH-29.4 MCHC-32.9 RDW-14.7 RDWSD-48.2* Plt ___
___ 06:35AM BLOOD Glucose-85 UreaN-10 Creat-0.9 Na-140 
K-4.1 Cl-102 HCO3-23 AnGap-15

___ 06:25AM BLOOD TSH-3.4

Discharge exam:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, PERRL
ENT: Ears and nose unremarkable. Oropharynx without visible 
lesion, MMM
CV: regular rate and rhythm, no m/r/g.  No JVD.
RESP: No increased wob, lung fields clear to auscultation 
bilaterally 
GI: Abdomen soft, ND. +BS. no ttp
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Brief Hospital Course:
___ female with a history of HTN, HLD, hx of 
palpitations, and remote history of appendectomy who presents 
with 5 days of profuse watery diarrhea found to have pancolitis 
as well as newly diagnosed atrial fibrillation.

# Diarrhea
# Pancolitis
Pt presented with 5 days of profuse watery diarrhea. Possible 
inciting factor being meal with chicken liver which she reported 
was well cooked. Denied any n/v. On  arrival, labs significant 
for ___ and CT imaging significant for pancolitis. C diff 
negative. Stool cultures with many PMNs, several RBC and were 
negative with exception of Yersinia which was still pending at 
time of discharge. Patient was started on cipro/flagyl for 
empiric coverage with great improvement and resolution of her 
diarrhea. 

# pAfib, new diagnosis
Pt reports long standing history of palpitations. Per chart 
review, had a normal ambulatory EKG event monitor in the past 
and declined cardiology referral for further work up. Admission 
EKG here with A fib, but given history, patient likely has had 
long standing pAfib. She was kept on Metoprolol during 
hospitalization and spontaneously converted to NSR. TSH wnl. TTE 
was completed on ___ and did not show any e/o valvular disease. 
Given CHADSVASC of 4, anticoagulation risks and benefits were 
discussed. Patient amenable to therapy with apixaban. Verified 
to be covered by her insurance at ___ and patient was 
discharged with 1 mo supply of medication. Given persistent 
palpitations on home dose of metop succinate 25 mg daily, she 
was discharged with dose increase to 37.5 mg daily.

# ___
On admission, Cr 1.4. Presumed to be pre-renal iso several days 
of diarrhea. Received 3 L of fluids on admission with 
improvement. Cr 0.9 post fluids. Home lisinopril was held.  

# HTN
Patient on multiple low doses of medications outpatient. She was 
continued on imdur, amlodipine, and Metoprolol during her 
hospitalization. She reported that she does not take hctz and 
lisinopril was held due to ___. She remained normotensive with 
SBP in 110s without this medication. She was told to hold this 
medication until PCP follow up and BP check.

# HLD: cont ezetimibe
# Hypothyroidism: cont home levothyroxine

TRANSITIONAL ISSUES:
[ ] Patient with new dx of pAfib on this hospitalization. Given 
CHADSVASC of 4, initiated on apixaban 5 mg BID. Consider dose 
reduction if develops ___ or increased weight gain given age > 
___
[ ] Patient normotensive off of lisinopril and hctz. reported 
that she does not take hctz at home. Recommended patient hold 
lisinopril given normotension and increased metop dose till 
outpatient PCP follow up in ___ as she is going to the ___ 
for 1 mo
[ ] Pt reported palpitations when at TTE, and off telemetry. 
Given sensation, home Metoprolol succinate increased to 37.5 mg 
daily on discharge 

>30 minutes spent on patient counseling and discharge care 
coordination 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 2.5 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Levothyroxine Sodium 25 mcg PO DAILY 
4. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
5. Hydrochlorothiazide 12.5 mg PO DAILY 
6. Ezetimibe 10 mg PO DAILY 
7. amLODIPine 5 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID nonvalvular atrial fibrillation 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*60 Tablet Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO BID Duration: 5 Doses 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*5 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO TID Duration: 7 Doses 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 
eight (8) hours Disp #*7 Tablet Refills:*0 
4.  Metoprolol Succinate XL 37.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 1.5 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
5.  amLODIPine 5 mg PO DAILY  
6.  Ezetimibe 10 mg PO DAILY  
7.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
8.  Levothyroxine Sodium 25 mcg PO DAILY  
9.  Vitamin D ___ UNIT PO DAILY  
10. HELD- Lisinopril 2.5 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until follow up with your primary care 
doctor ___ pressure check)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
paroxysmal Atrial fibrillation, new diagnosis
colitis 
___

 
Discharge Condition:
Independent, uses cane with ambulation

 
Discharge Instructions:
Ms. ___,

You came to the hospital with diarrhea and palpitations. When 
you got to the hospital, we found that you likely had an 
infection causing your diarrhea. You improved with fluids and 
antibiotics. Your palpitations are caused by Atrial 
fibrillation, an abnormal heart rhythm that is relatively 
common. We did an ultrasound of your heart that was normal. 
Given that the atrial fibrillation increases your risk of 
stroke, we recommended starting apixaban 5 mg twice a day. It is 
important you take this medication at the same time everyday. 
You should also continue taking your antibiotics as directed for 
the next 3 days. 

Since you were having palpitaitons with your home dose of 
metoprolol, we recommended increasing your dose from 25 mg daily 
to 37.5 mg daily (1.5 pills). Please stop taking your lisinopril 
until you follow up with your primary care doctor in ___ for 
follow up and a blood pressure check.

It was a pleasure meeting you, we wish you all the best!
- Your ___ team
 
Followup Instructions:
___